US04983211
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(3-(5-(methylthio)-2-pyridyloxy)phenyl)cyclohex-2-en-1-one
A mixture of 2.1 g (0.0055 mol) of 2-propionyl-3-hydroxy-5-(3-(5-(methylthio)-2-pyridyloxy)phenyl)cyclohex-2-en-1-one, 0.45 g (0.0061 mol) of ethoxyamine hydrochloride and 0.50 g (0.0061 mol) of sodium acetate in 8 mL of dichloromethane and 12 mL of absolute ethanol was stirred under a nitrogen atmosphere at room temperature for about 20 hours. The reaction mixture was poured into 100 mL of water and extracted thrice with 10 mL portions of dichloromethane. The solvent extracts were combined, dried over MgSO4, filtered through silica gel and the solvent removed by evaporation leaving a residue which solidified upon standing. Recrystallization of the residue from hexane gave the above named product in a yield of 2.2 g (94 percent of theoretical). The product melted at 75°-78° C.; 1H NMR (CDCl3): δ1.08-1.52 (m, 6H, both --CH2CH3 's), 2.45 (s, 3H, --SCH3), 2.60-3.65 (m, 7H, --CH(CH2)2 and --CH2CH3), 6.80-7.55 (m, 5H, ArH's), 7.75 (dd, J=9 Hz and 2H, 1H, ArH), 8.18 (d, J=2 Hz, ArH), 15.1 (br s, 1H, enol H) (Compound 4).

reactant | 2-propionyl-3-hydroxy-5-(3-(5-(methylthio)-2-pyridyloxy)phenyl)cyclohex-2-en-1-one | 0.0055 mol, 2.1 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC(=CC=C1)OC1=NC=C(C=C1)SC)=O | C21H21NO4S
reactant | ethoxyamine hydrochloride | 0.0061 mol, 0.45 g | Cl.C(C)ON
reactant | sodium acetate | 0.0061 mol, 0.50 g | C(C)(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(3-(5-(methylthio)-2-pyridyloxy)phenyl)cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC(=CC=C1)OC1=NC=C(C=C1)SC)=O | C23H26N2O4S
